* gnetlist -g spice-sdb -- veilleuse.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
D104 8 5 unknown 
D103 7 8 unknown 
D102 3 4 unknown 
R103 7 +5V  
R102 6 1  
Q101 5 6 0 unknown 
CONN1 Vdd CLK 0 <No valid value attribute found>
D1 4 5 unknown 
C1 0 OSC 1nF  
R3 3 +5V 10k  
R2 OSC 1 220k  
R1 0 Q 10k  
U2 0 2 CLK 0 Q 2 unknown
U1 Q OSC 1 unknown
.end
